US07354942B2
3-((2-Amino-2-methyl-3-phenylpropoxy)methyl)-N-(1-(3-chlorophenyl)ethyl)-5-(1-cyanocyclopentyl)benzamide
Prepared from 3-((2-tert-butoxycarbonylamino-2-methyl-3-phenylpropoxy)methyl)-5-(1-cyanocyclopentyl)benzoic acid and 1-(3-chlorophenyl)ethanamine using a similar procedure as described for the preparation of Example 20. HRMS ES calculated for C32H36ClN3O2: 530.2569, found: 530.2565.

reactant | 3-((2-tert-butoxycarbonylamino-2-methyl-3-phenylpropoxy)methyl)-5-(1-cyanocyclopentyl)benzoic acid | C(C)(C)(C)OC(=O)NC(COCC=1C=C(C(=O)O)C=C(C1)C1(CCCC1)C#N)(CC1=CC=CC=C1)C | C29H36N2O5
reactant | 1-(3-chlorophenyl)ethanamine | ClC=1C=C(C=CC1)C(C)N | C8H10ClN
product | 3-((2-Amino-2-methyl-3-phenylpropoxy)methyl)-N-(1-(3-chlorophenyl)ethyl)-5-(1-cyanocyclopentyl)benzamide | NC(COCC=1C=C(C(=O)NC(C)C2=CC(=CC=C2)Cl)C=C(C1)C1(CCCC1)C#N)(CC1=CC=CC=C1)C | C32H36ClN3O2
